US09023865B2
A solution of (R)-1-(1-(4-fluorophenyl)ethyl)-3-(1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea (157 mg, 0.291 mmol) in DCM (0.8 mL) was treated with TFA (0.2 mL) and triethylsilane (0.1 mL). The mixture was stirred at room temperature for 1.5 h. Additional TFA (0.2 mL) and triethylsilane (0.1 mL) were added and the mixture was stirred for 1.5 h and then evaporated in vacuo to afford a residue, which was purified by MS-directed reverse phase preparative-HPLC (C-18 stationary phase, eluting with a H2O/MeCN gradient with 0.1% TFA), to yield (R)-1-(1-(4-fluorophenyl)ethyl)-3-(1H-pyrazolo[4,3-c]pyridin-6-yl)urea (14 mg, 0.034 mmol, 12%). MS ESI calc'd. for C15H15FN5O [M+H]+ 300, found 300. 1H NMR (600 MHz, DMSO-d6) δ 9.22 (s, 1H), 8.15 (s, 1H), 7.92 (s, 1H), 7.32 (dd, J=8.5, 5.6 Hz, 2H), 7.12 (t, J=8.9 Hz, 2H), 7.07 (s, 1H), 6.78 (s, 1H), 4.79 (m, 1H), 1.35 (d, J=7.0 Hz, 3H).

reactant | (R)-1-(1-(4-fluorophenyl)ethyl)-3-(1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | 0.291 mmol, 157 mg | FC1=CC=C(C=C1)[C@@H](C)NC(=O)NC1=CC2=C(C=N1)C=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H28FN5O
reactant | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.1 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.1 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(1-(4-fluorophenyl)ethyl)-3-(1H-pyrazolo[4,3-c]pyridin-6-yl)urea | 0.034 mmol, 14 mg, 12% | FC1=CC=C(C=C1)[C@@H](C)NC(=O)NC1=CC2=C(C=N1)C=NN2 | C15H14FN5O
